US05068231
N-Butyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A solution of 18.9 (0.05 mole) of crude 3-[3-(trifluoromethyl)-phenoxy]azetidine (contains an equal molar amount of diphenylmethane) in 100 ml of isopropyl ether was stirred under nitrogen while 4.96 g (0.05 mole) of N-butyl isocyanate was slowly added. The clear reaction solution became warm to the touch, and after 20 minutes a white crystalline solid began to precipitate. After stirring for 16 hr, the solid was removed by filtration, washed with fresh isopropyl ether and air dried to yield 8 g of pale beige crystals, m.p. 108°-109° C.

reactant | 3-[3-(trifluoromethyl)-phenoxy]azetidine | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
reactant | diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | N-butyl isocyanate | 0.05 mole, 4.96 g | CCCCN=C=O | C5H9NO
solvent | isopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
product | N-Butyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 8 g | C(CCC)NC(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C15H19F3N2O2
